US07238822B2
Further separately, 5 g of dichloro(1,5-cyclooctadienyl)ruthenium was dissolved in 200 ml of well dried tetrahydrofuran in a 500 ml flask whose inside had been substituted by nitrogen. This solution was cooled to −78° C., and the above tetrahydrofuran solution of trimethylsilyl cyclopentadienyl sodium and the above tetrahydrofuran solution of cyclopentadienyl sodium were added dropwise to the solution at the same time in a stream of nitrogen over 1 hour. The resulting solution was stirred at −78° C. for 3 hours and heated to room temperature under agitation over 12 hours. After the resulting solution was let pass through a neutral alumina column in an argon gas atmosphere to be purified and concentrated, it was separated and purified by a neutral alumina column again to obtain 0.23 g of trimethylsilyl cyclopentadienyl(cyclopentadienyl)ruthenium (yield rate of 4.3%).

reactant | dichloro(1,5-cyclooctadienyl)ruthenium | 5 g | Cl[Ru](C1=CCCC=CCC1)Cl
reactant | trimethylsilyl cyclopentadienyl sodium | C[Si](C)(C)C1(C=CC=C1)[Na]
reactant | cyclopentadienyl sodium | C1(C=CC=C1)[Na]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | trimethylsilyl cyclopentadienyl(cyclopentadienyl)ruthenium | 0.23 g, 4.3% | C[Si](C)(C)[Ru](C1C=CC=C1)C1C=CC=C1 | InChI=1S/2C5H5.C3H9Si.Ru/c2*1-2-4-5-3-1;1-4(2)3;/h2*1-5H;1-3H3;
